US09290485B2
b) 1-(4-Pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carboxylic acid
A mixture of 1-(4-Pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carboxylic acid methyl ester (730 mg, 2.5 mmol) and lithiumhydroxyde-hydrate (210 mg, 4.9 mmol) in 10 mL MeOH and 5 mL water was stirred at room temperature for 3 h. The mixture was evaporated in vacuo, the residue was acidified with 1 N aq. HCl and lyophilised to yield the crude product which was used in the next step without further purification. LCMS (method A) RtA=0.412 min; [M+H]+=283.0.

reactant | 1-(4-Pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carboxylic acid methyl ester | 2.5 mmol, 730 mg | COC(=O)C=1N=CN(C1)CC1=CC=C(C=C1)CN1N=CC=C1 | C16H16N4O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 1-(4-Pyrazol-1-ylmethyl-benzyl)-1H-imidazole-4-carboxylic acid | N1(N=CC=C1)CC1=CC=C(CN2C=NC(=C2)C(=O)O)C=C1 | C15H14N4O2
